US03954757
To a stirred solution of 3.6 g 1,2-dimethylindole and 2.55 g 2-imidazolidinethione in 80 ml methanol is added a solution of 6.35 g iodine and 13 g potassium iodide in 50 ml water. After 1 hour at room temperature, the solution is concentrated in vacuo until crystals separate, then cooled and filtered. The precipitate is washed with water and ether and is recrystallized from alcohol to give 1,2-dimethyl-3-(2-imidazolin-2-ylthio)-indole hydriodide melting at 203°-205° (with decomposition).

reactant | 1,2-dimethylindole | 3.6 g | CN1C(=CC2=CC=CC=C12)C | C10H11N
reactant | 2-imidazolidinethione | 2.55 g | N1C(NCC1)=S | C3H6N2S
reactant | iodine | 6.35 g | II | I2
reactant | potassium iodide | 13 g | [I-].[K+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 1,2-dimethyl-3-(2-imidazolin-2-ylthio)-indole hydriodide | I.CN1C(=C(C2=CC=CC=C12)SC=1NCCN1)C | InChI=1S/C13H15N3S.HI/c1-9-12(17-13-14-7-8-15-13)10-5-3-4-6-11(10)16(9)2;/h3-6H,7-8H2,1-2H3,(H,14,15);1H
